US05633279
Freshly distilled diisopropylamine (0.435 ml) was dissolved in THF (10 ml). The solution was cooled to 0° C. and n-BuLi (1.3 ml, 2.38M) was added. The mixture was stirred at 0° C. for 20 minutes. The ice-bath was replaced by a dry ice-acetone bath and a solution of ethyl benzylidine glycinate (0.445 g) in THF (2 ml) was added slowly at -78°. The resulting red solution was stirred at -78° C. for 40 minutes. This solution was then transferred via cannula to a solution of (E)-4-(1,3-dihydro-6-methoxy -4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2-methylbut2-enyl bromide (0.667 g) dissolved in THF (20 ml) and HMPA (2 ml). After stirring the mixture at -78° C. for 90 minutes, the reaction mixture was poured into a concentrated solution of NH4Cl, extracted with ethyl acetate (3×30 ml), and the combined organic layers were dried over Na2SO4 and evaporated to give a dark oil, which was passed through a column (silica gel, ethyl acetate) giving 0.443 g (63%) of ethyl (E)-6-(4-methoxyethoxymethoxy -1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2-amino-4-methyl -4-hexenoate the product as a light yellow oil.

reactant | diisopropylamine | 0.435 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.38M, 1.3 ml | [Li]CCCC
reactant | (E)-4-(1,3-dihydro-6-methoxy -4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2-methylbut2-enyl bromide | 0.667 g | COC1=C(C(=C2C(OCC2=C1C)=O)OCOCCOC)C/C=C(/CBr)\C | C19H25BrO6
reactant | NH4Cl | [NH4+].[Cl-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | HMPA | 2 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | ethyl (E)-6-(4-methoxyethoxymethoxy -1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2-amino-4-methyl -4-hexenoate | 0.443 g, 63% | COCCOCOC1=C2C(OCC2=C(C(=C1C/C=C(/CC(C(=O)OCC)N)\C)OC)C)=O | C23H33NO8
